US04622401
As for Example 2, a mixture of 0.23 g. of sodium metal, 50 ml. of absolute ethanol, 7.11 g. of 2-chloro-6-hydrazinopyridine and 6.5 g. of cinnamonitrile yields 7.35 g. of crude product. The crude material is dissolved in dichloromethane, filtered through hydrous magnesium silicate and concentrated while adding hexane to give 5.90 g. of the desired product as off-white crystals, m.p. 187.5°-188.5° C.

reactant | sodium | [Na] | Na
reactant | 2-chloro-6-hydrazinopyridine | ClC1=NC(=CC=C1)NN | C5H6ClN3
solvent | ethanol | C(C)O | C2H6O
product | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
